US08084485B2
To a stirred solution of (R)-3,6-diethoxy-2-isopropyl-2,5-dihydropyrazine (480 mg, 2.3 mmol) in anhydrous THF (7 mL) at −78° C. was added dropwise 2.5 M n-BuLi in hexane (0.9 mL, 2.3 mmol). After stirring for 2 h at −78° C., a solution of (R)-6-(2-(bromomethyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole (530 mg, 1.5 mmol) in THF (2 mL) was added dropwise. The mixture was stirred for 1 h at −78° C., then warmed to rt and stirred for 12 h. The reaction mixture was quenched with satd aq NH4Cl and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over Na2SO4, evaporated, and purified by flash chromatography on silica gel to give 6-((S)-2-(((2S,5R)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazin-2-yl)methyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole (493 mg, 68%). MS: 485 (M++1).

reactant | (R)-3,6-diethoxy-2-isopropyl-2,5-dihydropyrazine | 2.3 mmol, 480 mg | C(C)OC=1[C@H](N=C(CN1)OCC)C(C)C | C11H20N2O2
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 2.3 mmol, 0.9 mL | CCCCCC | C6H14
reactant | (R)-6-(2-(bromomethyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole | 1.5 mmol, 530 mg | BrC[C@H](CC1=CC=C2C=NN(C2=C1)CCCOC)C(C)C | C17H25BrN2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-((S)-2-(((2S,5R)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazin-2-yl)methyl)-3-methylbutyl)-1-(3-methoxypropyl)-1H-indazole | 493 mg, 68% | C(C)OC=1[C@@H](N=C([C@H](N1)C(C)C)OCC)C[C@H](CC1=CC=C2C=NN(C2=C1)CCCOC)C(C)C | C28H44N4O3
